US04088772
To a slurry of 1.34 g of 2,3,7,12b-tetrahydro-1H-3a,8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole Example 3) and 3 g of magnesium oxide is added 0.93 g of cyclopropanecarbonyl chloride, and the mixture is stirred at room temperature overnight. The filtered mixture is concentrated; the residue is dissolved in methylene chloride, and the solution is washed with base, dried, and concentrated. The residue is heated under reflux with 0.57 g of lithium aluminum hydride in tetrahydrofuran overnight. To the cooled mixture is added, in turn, 0.6 ml of water, 0.6 ml of 15% aqueous sodium hydroxide solution, and 1.8 ml of water; the mixture is filtered, and the filtrate is concentrated to give 1.35 g of 2-cyclopropylmethyl-2,3,8,12b-tetrahydro-1H-3a, 8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole as an oil; nmr spectrum: τ 2.7- 3.2 (m, 8); 6.0-8.0 (m, 8) and 8.8-10.0 (m, 5). It is converted to the hydrochloride which is crystallized from isopropyl alcohol. The melting point of the hydrochloride is erratic and depends upon the rate of heating. Extending drying of the hydrochloride at 120°-130° for 8 hours at 0.1 micron gives a solvent-free product, m.p. 251°-252°, with decomposition.

reactant | 2,3,7,12b-tetrahydro-1H-3a,8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole | 1.34 g | C1NCC23C1C1=C(C(=C4C2=CC=CC4)C3)C=CC=C1 | C18H17N
reactant | magnesium oxide | 3 g | [O-2].[Mg+2]
reactant | cyclopropanecarbonyl chloride | 0.93 g | C1(CC1)C(=O)Cl | C4H5ClO
product | 2-cyclopropylmethyl-2,3,8,12b-tetrahydro-1H-3a, 8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole | 1.35 g | C1(CC1)CN1CC2C3(C1)C1=C(C(C4=C2C=CC=C4)C3)C=CC=C1 | C22H23N
